US07985455B2
In a nitrogen atmosphere, concentrated sulfuric acid (0.2 mL) was added to a mixture of 4-hydroxybenzoic acid (13.0 g), 2,7-dihydroxy-9-methylfluorene (10.0 g), boric acid (0.3 g) and xylene (120 mL), and the mixture was heated under reflux for 6 hours while removing water. A solid matter thus deposited was collected by filtration under reduced pressure, and rinsed with toluene. The solid matter was recrystallized from a mixed solvent of ethanol (75 mL) and acetone (75 mL) to provide 2,7-bis(4-hydroxybenzoyloxy)-9-methylfluorene (compound [H1]) (14.9 g) in the form of pale rose crystals.

reactant | sulfuric acid | 0.2 mL | S(O)(O)(=O)=O | H2O4S
reactant | 4-hydroxybenzoic acid | 13.0 g | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | 2,7-dihydroxy-9-methylfluorene | 10.0 g | OC1=CC=2C(C3=CC(=CC=C3C2C=C1)O)C | C14H12O2
reactant | boric acid | 0.3 g | B(O)(O)O | BH3O3
solvent | xylene | 120 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 2,7-bis(4-hydroxybenzoyloxy)-9-methylfluorene | 14.9 g | OC1=CC=C(C(=O)OC2=CC=3C(C4=CC(=CC=C4C3C=C2)OC(C2=CC=C(C=C2)O)=O)C)C=C1 | C28H20O6
